US08957083B2
A 15 ml resealable vial was charged with 2-amino-2′-bromo-7′-methoxy-1-methylspiro[imidazole-4,9′-xanthen]-5(1H)-one (87 mg, 224 μmol), pyrimidin-5-ylboronic acid (56 mg, 448 μmol) and tetrakis(triphenylphosphine)palladium(0) (26 mg, 22 μmol). DME (1 ml) was added to the mixture, and the vial was capped with argon. Sodium carbonate (2M aq. solution) (336 μl, 672 μmol) was added and the vial was sealed and heated at 85° C. for 16 hr. The heterogeneous mixture was cooled to RT, diluted with 5 ml EtOAc and 2 ml water, then filtered and the solids were washed with water (5 ml). The solids were redissolved in DCM/MeOH and dried with MgSO4, filtered and concentrated in vacuo to afford 2-amino-2′-methoxy-1-methyl-7′-(pyrimidin-5-yl)spiro[imidazole-4,9′-xanthen]-5(1H)-one as brownish solid.

reactant | 2-amino-2′-bromo-7′-methoxy-1-methylspiro[imidazole-4,9′-xanthen]-5(1H)-one | 224 μmol, 87 mg | NC=1N(C(C2(C3=CC(=CC=C3OC=3C=CC(=CC23)Br)OC)N1)=O)C | C17H14BrN3O3
reactant | pyrimidin-5-ylboronic acid | 448 μmol, 56 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | DME | 1 ml | COCCOC | C4H10O2
reactant | Sodium carbonate | 672 μmol, 2M, 336 μl | C([O-])([O-])=O.[Na+].[Na+]
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
solvent | water | 2 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 22 μmol, 26 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-2′-methoxy-1-methyl-7′-(pyrimidin-5-yl)spiro[imidazole-4,9′-xanthen]-5(1H)-one | NC=1N(C(C2(C3=CC(=CC=C3OC=3C=CC(=CC23)OC)C=2C=NC=NC2)N1)=O)C | C21H17N5O3
